US04020075
2-Bromo-1-hydroxyquinolizinium bromide p-phenetidinium salt
To a solution of 1-acetoxy-2-bromoquinolizinium bromide (30.0 g., 0.09 mole) in isopropanol (600 ml.) was added p-phenetidin (24.0 g., 0.18 mole). The stirred mixture was boiled under reflux for 4 hours, during which time solid had precipitated from solution. The cooled mixture was filtered and washed with ether. The product as yellow needles weighed 37.0 g. (97%). Recrystallization from alcohol-ether provided yellow needles which melted at 161°-162°.

reactant | 1-acetoxy-2-bromoquinolizinium bromide | 0.09 mole, 30.0 g | [Br-].C(C)(=O)OC1=C(C=C[N+]2=CC=CC=C12)Br
reactant | p-phenetidin | 0.18 mole, 24.0 g | CCOC1=CC=C(C=C1)N | C8H11NO
solvent | isopropanol | 600 ml | C(C)(C)O | C3H8O
product | 2-Bromo-1-hydroxyquinolizinium bromide p-phenetidinium salt | CCOC1=CC=C(C=C1)[NH3+].[Br-].BrC1=C(C2=CC=CC=[N+]2C=C1)O.[Br-] | InChI=1S/C9H6BrNO.C8H11NO.2BrH/c10-7-4-6-11-5-2-1-3-8(11)9(7)12;1-2-10-8-5-3-7(9)4-6-8;;/h1-6H;3-6H,2,9H2,1H3;2*1H
